US08685969B2
To a homogeneous, colorless solution of benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)propyl)-2-methylphenylcarbamate (1.3975 g, 2.87 mmol) in dioxane (Volume: 143 ml) under nitrogen were added 50% ethyl 2-oxoacetate/toluene (1.136 ml, 5.73 mmol) and 4 N hydrochloric acid/1,4-dioxane (1.433 ml, 5.73 mmol). After stirring overnight, the reaction was concentrated in vacuo, dissolved in EtOAc (75 mL) and saturated aqueous NaHCO3 (30 mL). The layers were separated, and the aqueous layer was extracted with EtOAc (2×75 mL). the organic layers were combined, dried over MgSO4, filtered and concentrated in vacuo to give crude cyclized product as a burgundy oil which was used in the next step. p-Xylene (Volume: 82 ml) and 10% palladium on carbon (0.916 g, 0.861 mmol) were added, and the reaction was heated at 120° C. After 3 h, the reaction was cooled to room temperature, diluted with EtOAc (200 mL) and filtered through a wad of CELITE®. The filtrate was concentrated in vacuo, dissolved in EtOAc (125 mL) and washed with water (25 mL). The layers were separated, and the organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography using an ISCO 80 g column eluting with 20-75% EtOAc/hexane. Appropriate fractions were collected and concentrated in vacuo to give ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylate (0.6232 g, 1.098 mmol, 38.3% yield) as a tan solid, LC/MS (M+H)=568.24.

reactant | benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)propyl)-2-methylphenylcarbamate | 2.87 mmol, 1.3975 g | NC(C(C1=CNC2=CC(=CC=C12)OCCOC)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C)C | C29H33N3O4
reactant | ethyl 2-oxoacetate toluene | 5.73 mmol, 1.136 ml | O=CC(=O)OCC.C1(=CC=CC=C1)C
reactant | hydrochloric acid 1,4-dioxane | 5.73 mmol, 4 N, 1.433 ml | Cl.O1CCOCC1
reactant | p-Xylene | 82 ml | CC=1C=CC(=CC1)C | C8H10
solvent | dioxane | 143 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on carbon | 0.861 mmol, 0.916 g | [Pd] | Pd
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylate | 1.098 mmol, 0.6232 g, 38.3% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=C(N=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)OCC)C)C | C33H33N3O6
